US07319104B2
2-[4-(2-{(6-Chloro-1,3-benzothiazol-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate and 2,6-dichloro benzothiazole. 1H NMR (CDCl3) δ 7.55 (d, 2H, J=8.0), 7.52 (d, 1H, J=2.0), 7.47 (d, 1H, J=8.0), 7.32 (d, 2H, J=8.0), 7.24 (dd, 1H, J=8.0; 2.0), 7.07 (d, 2H, J=8.6), 6.86 (d, 2H, J=8.6), 4.67 (s, 2H), 3.65 (t, 2H, J=7.2), 2.93 (t, 2H, J=7.2), 1.53 (s, 6H). MS: m/z 549 (M+1).

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C(F)(F)F | C22H26F3NO3
reactant | 2,6-dichloro benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
product | 2-[4-(2-{(6-Chloro-1,3-benzothiazol-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | ClC1=CC2=C(N=C(S2)N(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C27H24ClF3N2O3S
